US04424230
A mixture of benzyl 6-(1-hydroxyethyl)-3-toluenesulfonyloxy-1-azabicyclo[3.2.0]hept-2-en-7-one-2-carboxylate (46 mg) N-methyl-N-(2-dimethylaminoethyl)amine (10.2 mg), and triethylamine (28 μl) in anhydrous DMF (0.5 ml) is stirred at room temperature for 4 hrs. The mixture is diluted with ethyl acetate (10 ml) washed with H2O (5×2 ml) and brine, dried with MgSO4, filtered and evaporated in vacuo to provide benzyl 6-(1-hydroxyethyl)-3-[N-methyl-N-(2-dimethylaminoethyl)amino]-1-azabicyclo[3.2.0]hept-2-en-7-one-2-carboxylate.

reactant | benzyl 6-(1-hydroxyethyl)-3-toluenesulfonyloxy-1-azabicyclo[3.2.0]hept-2-en-7-one-2-carboxylate | 46 mg | OC(C)C1C2CC(=C(N2C1=O)C(=O)OCC1=CC=CC=C1)OS(=O)(=O)C=1C(=CC=CC1)C | C23H23NO7S
reactant | triethylamine | 28 μl | C(C)N(CC)CC | C6H15N
reactant | DMF | 0.5 ml | CN(C)C=O | C3H7NO
solvent | ethyl acetate | 10 ml | C(C)(=O)OCC | C4H8O2
product | benzyl 6-(1-hydroxyethyl)-3-[N-methyl-N-(2-dimethylaminoethyl)amino]-1-azabicyclo[3.2.0]hept-2-en-7-one-2-carboxylate | OC(C)C1C2CC(=C(N2C1=O)C(=O)OCC1=CC=CC=C1)N(CCN(C)C)C | C21H29N3O4
